US04337201
(cis)-4-Cyclohexyl -1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline
(cis)-4-Cyclohexyl-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, (0.83 g), bis(trimethylsilyl)acetamide (0.47 ml) and bromotrimethylsilane (0.28 ml) are stirred in 20 ml of dichloromethane for about 16 hours. A small amount of water is added and the mixture is evaporated to an oil residue (0.61 g). This material is crystallized from acetone with a recovery of 0.047 g of solid, melting point 175°-176° C.

reactant | (cis)-4-Cyclohexyl-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline | 0.83 g | C1(CCCCC1)[C@H]1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)OCC)=O)C(=O)O | C25H38NO5P
reactant | bis(trimethylsilyl)acetamide | 0.47 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | bromotrimethylsilane | 0.28 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (cis)-4-Cyclohexyl -1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline | C1(CCCCC1)[C@H]1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)O)=O)C(=O)O | C23H34NO5P
